US05250678
To a stirred mixture of 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,-10,16-tetraone (300 mg, 0.39 mmol, 1 eq) and Cu(OAc)2 (15 mg, 0.083 mmol, 0.21 eq) in CH2Cl2 (5 ml) in a round bottom flask equipped with a magnetic stir-bar was added tri(2-naphthyl)bismuth diacetate [prepared immediately prior to use by addition of acetic acid to a suspension of tri(2-naphthyl)bismuth carbonate (300 mg, 0.461 mmol, 1.2 eq) in CH2Cl2 (5 ml)]. The reaction flask was fitted with a reflux condenser and the mixture warmed to 40° C. After 6 hours the mixture was allowed to cool to room temperature and stirred an additional 16 hours. The reaction mixture was diluted with saturated aqueous NaHCO3 and extracted 2 times with CH2Cl2. The extracts were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified by preparative TLC (3:1 hexanes/acetone) to give 109 mg of 17-ethyl-1-hydroxy-12-[2'-(4"-(naphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR and 13C NMR analysis were consistent with the desired structure).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,-10,16-tetraone | 0.39 mmol, 300 mg, 1 eq | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C43H69NO11
reactant | tri(2-naphthyl)bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1=C(C=CC2=CC=CC=C12)[Bi](C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tri(2-naphthyl)bismuth carbonate | 0.461 mmol, 300 mg, 1.2 eq | C(O)(O)=O.C1=C(C=CC2=CC=CC=C12)[Bi](C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.083 mmol, 15 mg, 0.21 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1-hydroxy-12-[2'-(4"-(naphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 109 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=CC=CC=C1C=C2)OC)C)C)=O | C53H75NO11
